US07553967B2
Synthesis of 1-(4-chlorobenzoyl)-2-vinyl-1,2-dihydroquinoline
A solution of vinyl magnesium bromide (4.65 mL in 1M THF solution) under nitrogen gas at ambient conditions is treated with quinoline dropwise. The reaction mixture is warmed to 40° C. and stirred for 1 h. The reaction mixture is then allowed to attain ambient conditions and 4-chlorobenzoyl chloride (591 μL) is then added dropwise and reaction mixture stirred overnight. The reaction mixture is then cooled to 0° C. and quenched with saturated aqueous ammonium chloride solution. The reaction mixture is then partitioned between diethyl ether and water and the organic layer is washed successively with 1N hydrochloric acid and 1N sodium hydroxide solution and then dried over sodium sulfate. The organic solvent is removed under reduced pressure and the crude product is purified by liquid chromatography (gradient elution of acetonitrile (0.02% trifluoroacetic acid/water (0.02% trifluoroacetic acid) through a reverse phase. (M+H)+−296.

reactant | vinyl magnesium bromide | 1M, 4.65 mL | C(=C)[Mg]Br
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 4-chlorobenzoyl chloride | 591 μL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 1-(4-chlorobenzoyl)-2-vinyl-1,2-dihydroquinoline | ClC1=CC=C(C(=O)N2C(C=CC3=CC=CC=C23)C=C)C=C1 | C18H14ClNO
